US06835731B2
Preparation of Methanesulfonic Acid 4-{[(pyridine-2-carbonyl)-amino]-methyl}-benzyl Ester:
Using General Procedure G: Reaction of pyridine-2-carboxylic acid 4-hydroxymethyl-benzylamide (200 mg, 0.83 mmol), Et3N (144 uL, 0.99 mmol), and MsCl (71 uL, 0.91 mmol) for 10 minutes at 0° C. gave the title compound (214 mg, 81%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 2.92 (s, 3H), 4.69 (d, 2H, J=3.3 Hz), 5.23 (s, 2H), 7.41-7.47 (m, 5H), 7.85-7.87 (m, 1H), 8.24 (d, 1H, J=7.8 Hz), 8.50 (br s, 1H), 5.84 (d, 1H, J=3.9 Hz).

reactant | pyridine-2-carboxylic acid 4-hydroxymethyl-benzylamide | 0.83 mmol, 200 mg | OCC1=CC=C(CNC(=O)C2=NC=CC=C2)C=C1 | C14H14N2O2
reactant | Et3N | 0.99 mmol, 144 uL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.91 mmol, 71 uL | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic Acid 4-{[(pyridine-2-carbonyl)-amino]-methyl}-benzyl Ester | 214 mg, 81% | N1=C(C=CC=C1)C(=O)NCC1=CC=C(COS(=O)(=O)C)C=C1 | C15H16N2O4S
